US08076345B2
A) 3-(Azidomethyl)-2-methyl-6-(trifluoromethyl)pyridine
A 25 mL flask was charged with (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (287 mg, 1.50 mmol), tetrahydrofuran (5 mL) and diphenylphosphonic azide (356 μL, 1.65 mmol), purged with nitrogen, and cooled in ice. A solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (236 μL, 1.57 mmol) in THF (1 mL) was added dropwise to the resultant mixture, and after 1.5 h, the mixture was warmed to room temperature and stirred overnight. Additional diphenylphosphonic azide (100 μL, 0.3 equiv.) was added followed by additional 1,8-diazabicyclo[5.4.0]undec-7-ene (90 μL, 0.4 equiv.), and the mixture was again stirred overnight. The reaction was quenched with 1M NaOH (20 mL), and poured into chloroform (20 mL). The organic layer was washed with 1M Na2HPO4 (pH 8, 2×15 mL), dried (Na2SO4), filtered and concentrated to a yellow oil which was purified by silica gel column (0-25% ethyl acetate/hexane) to yield a colorless oil (301 mg, 93%).

reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 1.50 mmol, 287 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | diphenylphosphonic azide | 1.65 mmol, 356 μL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.57 mmol, 236 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphonic azide | 100 μL, 0.3 equiv. | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 90 μL, 0.4 equiv. | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(Azidomethyl)-2-methyl-6-(trifluoromethyl)pyridine | 301 mg, 93% | N(=[N+]=[N-])CC=1C(=NC(=CC1)C(F)(F)F)C | C8H7F3N4
